US08242104B2
To a suspension of 8-bromo-4-[1-dimethylamino-meth-(E)-ylidene]-3,4-dihydro-2H-benzo[b]-oxepin-5-one (5.32 g, 17.9 mmol) in isopropyl alcohol (50 mL) was added powdered hydrazine dihydrochloride (3.77 g, 35.9 mmol) at room temperature, then the mixture stirred for 2 h. The reaction mixture was diluted with water (20 mL) and then heated at 100° C. for 2 h before cooling to room temperature. The reaction mixture was concentrated in vacuo to remove the volatile solvent. The resulting suspension was filtered and the filtrate washed with water and dried under vacuum at 40° C. to yield 8-Bromo-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene as a pale yellow solid (4.28 g, 90%). 1H NMR δ (ppm) (DMSO-d): 8.07 (1H, d, J=8.52 Hz), 7.64 (1H, s), 7.30-7.24 (1H, m), 7.21 (1H, d, J=2.07 Hz), 4.24 (2H, dd, J=5.63, 4.50 Hz), 3.00 (2H, t, J=5.09 Hz).

reactant | 8-bromo-4-[1-dimethylamino-meth-(E)-ylidene]-3,4-dihydro-2H-benzo[b]-oxepin-5-one | 17.9 mmol, 5.32 g | BrC=1C=CC2=C(OCC\C(\C2=O)=C/N(C)C)C1 | C13H14BrNO2
reactant | hydrazine dihydrochloride | 35.9 mmol, 3.77 g | Cl.Cl.NN
solvent | isopropyl alcohol | 50 mL | C(C)(C)O | C3H8O
solvent | water | 20 mL | O | H2O
product | 8-Bromo-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 4.28 g, 90% | BrC1=CC2=C(C3=NNC=C3CCO2)C=C1 | C11H9BrN2O
